US04043994
Nα -t-Butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester is prepared from 7 g. (20 mmol) of Nα -benzyloxy-carbonyl-D-alanyl-L-leucine methyl ester by reduction with hydrogen. The material is dissolved in 150 ml. of methanol and 500 mg. of 20% palladium-on-carbon added followed by the introduction of hydrogen. The stirred reaction mixture is shown by thin layer chromatography to be complete in 2 hours. The mixture is filtered to separate the catalyst and 7.42 g. (20 mmol) of Nα -t-butoxycarbonyl-O-benzyl-L-tyrosine added. The methanol is removed by evaporation under reduced pressure and the residue dissolved in 50 ml. of dimethylformamide. The cooled solution is treated with 2.7 g. of 1-hydroxybenztriazole and 4.3 g. of dicyclohexylcarbodiimide. The mixture is stirred at -10° C. for two hours and then at room temperature for two and one-half days. The mixture is filtered, the solid rinsed and the solvent evaporated at 40° C. under reduced pressure. The residue is dissolved in 300 ml. of ether and 50 ml. of ethyl acetate and washed three times with 5% sodium bicarbonate solution, saturated salt solution, dried over magnesium sulfate and evaporated. The residue crystallizes from ether-petroleum ether. The product is further purified by boiling with ether, cooling and filtering; 8.55 g. of white solid; m.p. 128°-129° C.

reactant | Nα -benzyloxy-carbonyl-D-alanyl-L-leucine methyl ester | 20 mmol | COC([C@@H](NC([C@H](NOCC1=CC=CC=C1)C=C=O)=O)CC(C)C)=O | C18H24N2O5
reactant | hydrogen | [H][H] | H2
reactant | Nα -t-butoxycarbonyl-O-benzyl-L-tyrosine | 20 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | methanol | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Nα -t-Butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O | C31H43N3O7
